US09315475B2
Step 12: Preparation of (3S,6R)-6-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-3-carboxylic acid
4M HCl in dioxane was added to a solution of (3S,6R)-4-(tert-butoxycarbonyl)-6-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-3-carboxylic acid in Dioxane at room temperature and the reaction stirred until complete by LC/MS (8 hrs). The solvent was removed in vacuo to afford the title compound, LC/MS.M+1, +ESI=532.3

reactant | HCl | 4M | Cl | ClH
reactant | (3S,6R)-4-(tert-butoxycarbonyl)-6-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-3-carboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CO[C@@H](C1)CCC1=C(C=CC=C1)NC([C@@H](NC(=O)OC)C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)O | C35H41N3O8
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (3S,6R)-6-[2-(2-{[N-(methoxycarbonyl)-β-phenyl-L-phenylalanyl]amino}phenyl)ethyl]morpholine-3-carboxylic acid | COC(=O)N[C@@H](C(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)NC1=C(C=CC=C1)CC[C@H]1OC[C@H](NC1)C(=O)O | C30H33N3O6
